US04831039
Preparation of 5,14-dihydrobenz[5,6]isoindolo[2,1-b]isoquinoline 8,13-dione
A mixture of 2-formyl-3-carboxy-1,2,3,4-tetrahydroisoquinoline (20 g) and 1,4-naphthoquinone (30.8 g) in acetic anhydride (500 ml) was heated at 100° C. with stirring for 30 minutes. The reaction mixture was cooled, the solid collected by filtration, washed with acetic anhydride (50 g) with ether (2×100ml) and dried to give the title compound in Form B (26 g).

reactant | 2-formyl-3-carboxy-1,2,3,4-tetrahydroisoquinoline | 20 g | C(=O)N1CC2=CC=CC=C2CC1C(=O)O | C11H11NO3
reactant | 1,4-naphthoquinone | 30.8 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
solvent | acetic anhydride | 500 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5,14-dihydrobenz[5,6]isoindolo[2,1-b]isoquinoline 8,13-dione | C1=C2CC=3N(CC2=CC=C1)C=C1C(C2=C(C(C13)=O)C=CC=C2)=O | C20H13NO2
